US06268387B1
3-(3-Chloro-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.5 g, 6.2 mmol), tris(3-chlorophenyl)bismuthine (3.5 g, 6.4 mmol), copper(II) acetate (1.16 g, 6.4 mmol), and triethylamine (0.65 g, 6.4 mmol) to give a solid which was purified by chromatography on a column of silica gel in chloroform/ethyl acetate 99:1 to afford the product (1.8 g); m.p. 168-170° C. after recrystallization from ethanol.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 6.2 mmol, 1.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(3-chlorophenyl)bismuthine | 6.4 mmol, 3.5 g | ClC=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl
reactant | triethylamine | 6.4 mmol, 0.65 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 6.4 mmol, 1.16 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(3-Chloro-phenylamino)-4-methoxy-N-phenyl-benzamide | 1.8 g | ClC=1C=C(C=CC1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H17ClN2O2
